### PR TITLE
[Merged by Bors] - feat(SpecialFunctions/Pow): add 2 more `rpow_ofNat`

### PR DESCRIPTION
**Pull request by urkud**
- Add `NNReal.rpow_ofNat` and `ENNReal.rpow_ofNat`.
- Add `ENNReal.rpow_lt_top_iff_of_pos`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 1]
```diff
@@ -487,6 +489,9 @@ theorem rpow_eq_top_iff_of_pos {x : ℝ≥0∞} {y : ℝ} (hy : 0 < y) : x ^ y =
   simp [rpow_eq_top_iff, hy, asymm hy]
 #align ennreal.rpow_eq_top_iff_of_pos ENNReal.rpow_eq_top_iff_of_pos
 
+lemma rpow_lt_top_iff_of_pos {x : ℝ≥0∞} {y : ℝ} (hy : 0 < y) : x ^ y < ⊤ ↔ x < ⊤ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:492]:
```suggestion
lemma rpow_lt_top_iff_of_pos {x : ℝ≥0∞} {y : ℝ} (hy : 0 < y) : x ^ y < ∞ ↔ x < ∞ := by
```

**Review by sgouezel — COMMENTED** [review]
bors d+
